US04424351
3-Phenyl-1,4-dihydropyrido[3,4-e]-as-triazine is reacted with acetic anhydride as described in Example 11 to obtain 3-phenyl-1-acetyl-1,4-dihydropyrido[3,4-e]-as-triazine with a yield of 76%; m.p.: 208°-209° C.

reactant | 3-Phenyl-1,4-dihydropyrido[3,4-e]-as-triazine | C1(=CC=CC=C1)C1=NNC2=C(N1)C=NC=C2 | C12H10N4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-phenyl-1-acetyl-1,4-dihydropyrido[3,4-e]-as-triazine | yield of 76% | C1(=CC=CC=C1)C1=NN(C2=C(N1)C=NC=C2)C(C)=O | C14H12N4O
